US08058311B2
To a stirred solution of sodium hydroxide (2.1 g, 52.5 mmol) in water (4 ml) cooled in an ice bath, a solution of 3-aminothiophenol (4.8 g, 38.4 mmol) in ethanol (20 ml) was added drop wise, followed by the addition of solution of benzyl chloride (5 g, 39.5 mmol) in ethanol (5 ml). After the addition, the reaction mixture was stirred at room temperature for 4 hours and became a brown solution with white precipitate. After filtering off the precipitate, the filtrate was concentrated and residue was taken by dichloromethane (40 ml). The dichloromethane solution was washed with aqueous sodium hydroxide solution three times (0.5 M, 3×40 ml) and water once (40 ml). After dried over MgSO4 and filtered, dichloromethane solution was then concentrated in vacuo to afford thick yellow oil as crude product. It was further purified by flash chromatography (SiO2, hexanes/CH2Cl2, 0-100%) to afford 3-(benzylthio)aniline (6.77 g, 82%) as a pale yellow oil, which solidified into white solid after staying at room temperature. Thin layer chromatography: Dichloromethane, Rf=0.37; 1H-NMR (CDCl3) δ(ppm) 6.6-7.4 (m, 9H, Ar—H), 4.15 (s, 2H, S—CH2).

reactant | sodium hydroxide | 52.5 mmol, 2.1 g | [OH-].[Na+]
reactant | 3-aminothiophenol | 38.4 mmol, 4.8 g | NC=1C=C(C=CC1)S | C6H7NS
reactant | benzyl chloride | 39.5 mmol, 5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 4 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(benzylthio)aniline | 6.77 g, 82% | C(C1=CC=CC=C1)SC=1C=C(N)C=CC1 | C13H13NS
